US06583135B2
Preparation of 3-tert-Butyloxycarbonyl-6-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-tert-butyloxycarbonyl-6-(3-chloropropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (213 mg), phenol (90 mg), DMF (2.0 mL), and K2CO3 (81 mg) was heated at 100° C. for 16 h, then allowed to cool to room temperature. The mixture was diluted with EtOAc (50 mL), then washed with water (3×10 mL). The organic layer was dried (MgSO4), filtered, and concentrated. Purification by flash chromatography (silica gel, 3:1 hexane:EtOAc) gave 205 mg of the title compound as an oil: 1H NMR (300 MHz, CDCl3) δ 7.45-7.55, 6.8-7.35, 4.33, 3.90, 3.55-3.75, 2.90-3.10, 2.12-2.28, 1.49; MS (ESI) m/z 421 (M+).

reactant | 3-tert-butyloxycarbonyl-6-(3-chloropropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 213 mg | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCCCl | C20H27ClN2O2
reactant | phenol | 90 mg | C1(=CC=CC=C1)O | C6H6O
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 81 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-tert-Butyloxycarbonyl-6-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 205 mg | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCCOC1=CC=CC=C1 | C26H32N2O3
